US06953793B2
B. 4-[4-Chloro-2-(2-ethoxycarbonyl-vinyl)-phenylamino]-piperidine-1-carboxylic acid tert-butyl ester.
3-(2-Amino-5-chloro-phenyl)-acrylic acid ethyl ester (10.4 g, 46 mmol) and 4-oxo-piperidine-1-carboxylic acid tert-butyl ester (13.8 g, 69 mmol) were set stirring in CH2Cl2 (230 mL). Sodium triacetoxyborohydride (14.6 g, 69 mmol) was added in portions over 10 min. Acetic acid (1.3 mL, 25 mmol) was then added and the mixture left to stir. After 18 h saturated NaHCO3 was added and the organics separated. The organics were dried over Na2SO4 and concentrated. The residue was purified by column chromatography (silica, 20-50% EtOAc/hexanes) to obtain 12.4 g (66%) of a light beige solid. TLC (silica, 25% EtOAc/hexanes): Rf=0.5. MS (electrospray): exact mass calculated for C21H29ClN2O4, 408.18. m/z found, 409.1 [M++H]. 1H NMR (400 MHz, CDCl3): 7.64 (d, J=15.65 Hz, 1H), 7.29 (d, J=2.35 Hz, 1H), 7.14 (dd, J=6.26 Hz, 2.54 Hz, 1H), 6.59 (d, J=9.00 Hz, 1H), 6.28 (d, J=15.65 Hz, 1H), 4.23 (dd, J=7.04 Hz, 7.04 Hz, 2H), 4.11-3.98 (m, 2H), 3.81 (br s, 1H), 3.46-3.36 (m, 1H), 2.89 (t, J=11.74 Hz, 2H), 2.04-1.95 (m, 2H), 1.44 (s, 9H), 1.42-1.33 (m, 2H), 1.30 (t, J=7.24 Hz, 3H).

reactant | 3-(2-Amino-5-chloro-phenyl)-acrylic acid ethyl ester | 46 mmol, 10.4 g | C(C)OC(C=CC1=C(C=CC(=C1)Cl)N)=O | C11H12ClNO2
reactant | 4-oxo-piperidine-1-carboxylic acid tert-butyl ester | 69 mmol, 13.8 g | C(C)(C)(C)OC(=O)N1CCC(CC1)=O | C10H17NO3
reactant | Sodium triacetoxyborohydride | 69 mmol, 14.6 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | Acetic acid | 25 mmol, 1.3 mL | C(C)(=O)O | C2H4O2
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | CH2Cl2 | 230 mL | C(Cl)Cl | CH2Cl2
product | 4-[4-Chloro-2-(2-ethoxycarbonyl-vinyl)-phenylamino]-piperidine-1-carboxylic acid tert-butyl ester | 12.4 g, 66% | C(C)(C)(C)OC(=O)N1CCC(CC1)NC1=C(C=C(C=C1)Cl)C=CC(=O)OCC | C21H29ClN2O4
